US07067517B2
Methyl-phenyl-carbamic acid 4-(4-nitro-phenoxy)-phenyl ester
The title compound was prepared from 4-(4-nitro-phenoxy)-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (71%, white crystals). HPLC-MS m/z=365.0 (M+1), Rt: 4.83 min.

reactant | 4-(4-nitro-phenoxy)-phenol | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9NO4
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(4-nitro-phenoxy)-phenyl ester | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)OC(N(C2=CC=CC=C2)C)=O)C=C1 | C20H16N2O5
